US06916920B2
(a) Preparation of Pyrene-Labeled Lactose
10 μl of a solution containing 400 nmol of 1-pyrenebutanoic acid, hydrazide (Molecular Probes) in DMSO was added to 50 nmol of lactose which had been dried adequately, and lactose was fully dissolved by sonication. 1 μl of acetic acid was added thereto and the mixture was stirred adequately. The reaction mixture was then heated at 90° C. for 1 hour. After the reaction mixture was dried using a centrifugation concentrator, 10 μl of a solution containing 2.5 M borane-dimethylamine complex and 30% acetic acid in DMSO was added to the residue, and the residue was fully dissolved by sonication. The mixture was then heated at 80° C. for 1 hour. The reaction mixture was dried using a centrifugation concentrator. The residue was re-dissolved in 50% acetonitrile and purified using normal phase high performance liquid chromatography. The molecular weight of the purified pyrene-labeled lactose was determined using a triple-quadrupole ion-spray mass-spectrometer API-300. As a result, a positive molecular ion (629.3) was observed.

reactant | 1-pyrenebutanoic acid, hydrazide | 400 nmol | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)CCCC(=O)NN | C20H18N2O
reactant | lactose | 50 nmol | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
solvent | DMSO | CS(=O)C | C2H6OS
product | Pyrene | C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C16H10
